US09102662B2
Preparation of 2-Nitro-4-(piperidine-1-carbonyl)-benzoic acid tert-butyl ester
2-Nitro-terephthalic acid 1-tert-butyl ester (500 mg, 1.88 mmol) in DCM (18 mL), was treated with 1-hydroxybenzotriazole (0.39 g, 2.43 mmol), EDCI (0.47 g, 2.43 mmol) and piperidine (0.24 mL, 2.43 mmol). After 3 hours the reaction was diluted with DCM (50 mL) and washed with aqueous NaHCO3 (30 mL), water (30 mL) and finally with brine. After drying over sodium sulphate and evaporation of the solvent the title compound was obtained as a colourless oil in quantitative yield. The crude was employed in the following reaction without any further purification.

reactant | 2-Nitro-terephthalic acid 1-tert-butyl ester | 1.88 mmol, 500 mg | C(C)(C)(C)OC(C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-])=O | C12H13NO6
reactant | 1-hydroxybenzotriazole | 2.43 mmol, 0.39 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCI | 2.43 mmol, 0.47 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | piperidine | 2.43 mmol, 0.24 mL | N1CCCCC1 | C5H11N
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Nitro-4-(piperidine-1-carbonyl)-benzoic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(=O)N1CCCCC1)[N+](=O)[O-])=O | C17H22N2O5
